### PR TITLE
[Merged by Bors] - feat: monotonicity of Holderianity

### PR DESCRIPTION
**Pull request by EtienneC30**
Prove many results related to the following two:
- If a function is `r`-Hölder over a bounded space, then it is also `s`-Hölder when `s ≤ r`.
- If a function is `r`-Hölder and `t`-Hölder, then it is `s`-Hölder for `r ≤ s ≤ t`.

---

- [x] depends on: #31555

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/HolderNorm.lean [hunk 1]
```diff
@@ -125,6 +125,81 @@ lemma memHolder_const' {c : Y} : MemHolder r (fun _ ↦ c : X → Y) :=
...
+/-- If a function is `r`-Hölder over a bounded space, then it is also `s`-Hölder when `s ≤ r`. -/
+lemma MemHolder.mono {X : Type*} [PseudoMetricSpace X] [hX : BoundedSpace X]
+    {f : X → Y} {s : ℝ≥0} (hf : MemHolder r f) (hs : s ≤ r) :
+    MemHolder s f := by
+  obtain ⟨C, hf⟩ := hf
+  obtain rfl | hr := eq_zero_or_pos r
+  · rw [nonpos_iff_eq_zero.1 hs]
+    exact ⟨C, hf⟩
+  obtain ⟨C', hC'⟩ := Metric.boundedSpace_iff_nndist.1 hX
+  refine ⟨C * C' ^ (r - s : ℝ), fun x y ↦ ?_⟩
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/HolderNorm.lean]: It's a bit sad that you get an explicit constant here and never provide it as a lemma. Isn't it more natural to start by proving `HolderOnWith.mono_right'` with explicit constant?

File: Mathlib/Topology/MetricSpace/HolderNorm.lean [hunk 2]
```diff
@@ -125,6 +125,135 @@ lemma memHolder_const' {c : Y} : MemHolder r (fun _ ↦ c : X → Y) :=
...
+        nth_grw 1 [hf₁ x hx y hy, hf₂ x hx y hy]
+        simpa
+    _ = ↑(C₁ ^ (t : ℝ) * C₂ ^ (1 - t : ℝ)) * (edist x y) ^ (↑(r * t + s * (1 - t)) : ℝ) := by
+        rw [ENNReal.mul_rpow_of_nonneg, ENNReal.mul_rpow_of_nonneg, NNReal.coe_add, NNReal.coe_mul,
+          NNReal.coe_mul, ENNReal.rpow_add_of_nonneg, ENNReal.rpow_mul, ENNReal.rpow_mul,
+          NNReal.coe_sub ht, NNReal.coe_one, ENNReal.coe_mul, ENNReal.coe_rpow_of_nonneg,
+          ENNReal.coe_rpow_of_nonneg]
+        · ring
+        any_goals positivity
+        all_goals simpa
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/HolderNorm.lean]: The following variation is both easier to prove and (I think) easier to use because it avoids truncated subtraction in `NNReal`:
```suggestion
/-- If a function is `(C₁, r)`-Hölder and `(C₂, s)`-Hölder, then it is
`(C₁ ^ t₁ * C_₂ ^ t₂, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
`t₁ + t₂ = 1`. -/
lemma HolderOnWith.interpolate {C₁ C₂ s t₁ t₂ : ℝ≥0} {A : Set X}
    (hf₁ : HolderOnWith C₁ r f A) (hf₂ : HolderOnWith C₂ s f A) (ht : t₁ + t₂ = 1) :
    HolderOnWith (C₁ ^ (t₁ : ℝ) * C₂ ^ (t₂ : ℝ)) (r * t₁ + s * t₂) f A := by
  intro x hx y hy
  calc edist (f x) (f y)
      = (edist (f x) (f y)) ^ (t₁ : ℝ) * (edist (f x) (f y)) ^ (t₂ : ℝ) := by
        simp [← ENNReal.rpow_add_of_nonneg, ← NNReal.coe_add, ht]
    _ ≤ (C₁ * (edist x y) ^ (r : ℝ)) ^ (t₁ : ℝ) * (C₂ * (edist x y) ^ (s : ℝ)) ^ (t₂ : ℝ) := by
        nth_grw 1 [hf₁ x hx y hy, hf₂ x hx y hy]
    _ = ↑(C₁ ^ (t₁ : ℝ) * C₂ ^ (t₂ : ℝ)) * (edist x y) ^ (↑(r * t₁ + s * t₂) : ℝ) := by
        push_cast
        simp (discharger := positivity) only [ENNReal.mul_rpow_of_nonneg,
          ENNReal.rpow_add_of_nonneg, ENNReal.rpow_mul, ENNReal.coe_rpow_of_nonneg]
        ring
```

File: Mathlib/Topology/MetricSpace/HolderNorm.lean [hunk 3]
```diff
@@ -125,6 +125,135 @@ lemma memHolder_const' {c : Y} : MemHolder r (fun _ ↦ c : X → Y) :=
...
+  · nth_rw 1 [NNReal.mul_rpow, ← NNReal.rpow_mul, ← mul_assoc, ← NNReal.rpow_add_of_nonneg,
+      ← NNReal.rpow_one C]
+    · congr
+      · simp
+      · rw [mul_sub, NNReal.coe_div, mul_div_cancel₀, mul_one]
+        exact NNReal.coe_ne_zero.2 hr.ne'
+    · exact NNReal.coe_nonneg _
+    · simpa only [sub_nonneg, coe_le_one, div_le_one hr]
+  · simp [mul_div_cancel₀ _ hr.ne']
+  · simpa only [sub_nonneg, coe_le_one, div_le_one hr]
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/HolderNorm.lean]: I spent way too long trying to make this easier... In combination with my previous suggestion, I would suggest the following:
```suggestion
  obtain rfl | ht := eq_zero_or_pos t
  · simpa using hf.holderOnWith_zero_of_bounded hs
  have hr : 0 < r := ht.trans_le htr
  rw [← NNReal.coe_le_coe] at htr
  rw [← NNReal.coe_pos] at hr
  set θ₁ : ℝ≥0 := ⟨t/r, by positivity⟩
  set θ₂ : ℝ≥0 := ⟨1 - t/r, by simpa using div_le_one_of_le₀ htr (by positivity)⟩
  have hθ : θ₁ + θ₂ = 1 := by ext; simp [θ₁, θ₂]
  have hθt : r * θ₁ + 0 * θ₂ = t := by ext; simp [θ₁, mul_div_cancel₀ _ hr.ne']
  have hθC : C * D ^ (r - t : ℝ) = C ^ (θ₁ : ℝ) * (C * D ^ (r : ℝ)) ^ (θ₂ : ℝ) := by
    simp (discharger := positivity) only [NNReal.mul_rpow, ← mul_assoc,
      ← NNReal.rpow_add_of_nonneg, ← NNReal.rpow_mul, ← NNReal.coe_add, hθ, NNReal.coe_one,
      NNReal.rpow_one]
    congr
    simp [mul_sub, θ₂, mul_div_cancel₀ _ hr.ne']
  rw [hθC, ← hθt]
  exact hf.interpolate (hf.holderOnWith_zero_of_bounded hs) hθ
```

It is a bit longer than what you haven but I claim it is also a bit cleaner and, hopefully, easier to maintain. What do you think?

File: Mathlib/Topology/MetricSpace/HolderNorm.lean [hunk 4]
```diff
@@ -125,6 +125,135 @@ lemma memHolder_const' {c : Y} : MemHolder r (fun _ ↦ c : X → Y) :=
...
+  refine ⟨max C₁ C₂, fun x y ↦ ?_⟩
+  obtain h | h := le_total (edist x y) 1
+  · grw [hf₂ x y]
+    refine mul_le_mul ?_ (rpow_le_rpow_of_exponent_ge h (by norm_cast)) (by simp) (by simp)
+    gcongr
+    exact le_max_right _ _
+  · grw [hf₁ x y]
+    refine mul_le_mul ?_ (rpow_le_rpow_of_exponent_le h (by norm_cast)) (by simp) (by simp)
+    gcongr
+    exact le_max_left _ _
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/HolderNorm.lean]: This is indeed a bit painful to result from the interpolation result because we lack results about convexity in `ℝ≥0`. This motivated me to open #31887, using which we could do the following:
```lean
lemma HolderOnWith.mono_const {C₁ C₂ : ℝ≥0} {A : Set X} (hf : HolderOnWith C₁ r f A)
    (hC : C₁ ≤ C₂) : HolderOnWith C₂ r f A := by
  intro x hx y hy
  grw [← hC]
  exact hf x hx y hy

/-- If a function is `(C, r)`-Hölder and `(C, s)`-Hölder,
then it is `(C, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
`t₁ + t₂ = 1`. -/
lemma HolderOnWith.interpolate_const {C s t₁ t₂ : ℝ≥0} {A : Set X}
    (hf₁ : HolderOnWith C r f A) (hf₂ : HolderOnWith C s f A) (ht : t₁ + t₂ = 1) :
    HolderOnWith C (r * t₁ + s * t₂) f A := by
  convert hf₁.interpolate hf₂ ht
  simp [← NNReal.rpow_add_of_nonneg, ← NNReal.coe_add, ht]

/-- If a function is `(C₁, r)`-Hölder and `(C₂, s)`-Hölder,
then it is `(max C₁ C₂, r * t + s * (1 - t))`-Hölder for `0 ≤ t ≤ 1`. -/
lemma HolderOnWith.interpolate_max {C₁ C₂ s t₁ t₂ : ℝ≥0} {A : Set X}
    (hf₁ : HolderOnWith C₁ r f A) (hf₂ : HolderOnWith C₂ s f A) (ht : t₁ + t₂ = 1) :
    HolderOnWith (max C₁ C₂) (r * t₁ + s * t₂) f A :=
  .interpolate_const (hf₁.mono_const (le_max_left _ _)) (hf₂.mono_const (le_max_right _ _)) ht

variable (f) in
/-- For fixed `f : X → Y`, `A : Set X` and `C : ℝ≥0`, the set of all parameters `r : ℝ≥0` such that
`f` is `(C, r)`-Hölder on `A` is convex. -/
lemma convex_setOf_holderOnWith (C : ℝ≥0) (A : Set X) :
    Convex ℝ≥0 {r | HolderOnWith C r f A} := by
  intro r hr s hs _ _ _ _ ht
  rw [smul_eq_mul, smul_eq_mul, ← mul_comm r, ← mul_comm s]
  exact hr.interpolate_const hs ht

lemma HolderOnWith.of_le_of_le {C₁ C₂ s t : ℝ≥0} {A : Set X}
    (hf₁ : HolderOnWith C₁ r f A) (hf₂ : HolderOnWith C₂ s f A) (hrt : r ≤ t)
    (hts : t ≤ s) : HolderOnWith (max C₁ C₂) t f A := by
  replace hf₁ := hf₁.mono_const (le_max_left C₁ C₂)
  replace hf₂ := hf₂.mono_const (le_max_right C₁ C₂)
  exact convex_setOf_holderOnWith f (max C₁ C₂) A |>.segment_subset hf₁ hf₂
    (NNReal.Icc_subset_segment ⟨hrt, hts⟩)
```

I don't want to force you to wait longer though, so we can keep the ad-hoc proof for now if you prefer.

**Review by ADedecker — COMMENTED** [review]
Oof, I didn't realize how painful it was to write down these computations... Sorry for the trouble.

I played a bit with the statements and the proofs, so here are some suggestions. Could you move the `HolderOnWith` statements to [Mathlib.Topology.MetricSpace.Holder](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Holder.html)? 

(You can keep the `exists_holderOnWith` statements here though, since they are morally variations of the `MemHolder` statements)

File: Mathlib/Topology/MetricSpace/HolderNorm.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/HolderNorm.lean]: Indeed that's nicer, thanks!

File: Mathlib/Topology/MetricSpace/HolderNorm.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/HolderNorm.lean]: I kept your proof, it's more readable.

File: Mathlib/Topology/MetricSpace/HolderNorm.lean (hunk 4 above)
Comment (EtienneC30) [reply Mathlib/Topology/MetricSpace/HolderNorm.lean]: #31887 got merged so I implemented your suggestion, I just didn't keep `HolderOnWith.interpolate_max` because it's strictly weaker than `HolderOnWith.interpolate`.

File: Mathlib/Topology/MetricSpace/Holder.lean [hunk 5]
```diff
@@ -211,6 +292,12 @@ lemma mono {C' : ℝ≥0} (hf : HolderWith C r f) (h : C ≤ C') :
     HolderWith C' r f :=
   fun x₁ x₂ ↦ (hf x₁ x₂).trans (by gcongr)
 
+/-- If a function is `r`-Hölder over a bounded space, then it is also `t`-Hölder when `t ≤ r`. -/
+lemma of_le {C D t : ℝ≥0}
+    (hs : ∀ x y : X, edist x y ≤ D) (hf : HolderWith C r f) (htr : t ≤ r) :
+    HolderWith (C * D ^ (r - t : ℝ)) t f :=
+  holderOnWith_univ.1 ((holderOnWith_univ.2 hf).of_le (fun x _ y _ ↦ hs x y) htr)
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Holder.lean]: Sorry to be a bit annoying, but would you mind specializing the other results to `HolderWith` as well?

File: Mathlib/Topology/MetricSpace/Holder.lean [hunk 6]
```diff
@@ -159,6 +160,86 @@ theorem ediam_image_inter_le (hf : HolderOnWith C r f s) (t : Set X) :
     EMetric.diam (f '' (t ∩ s)) ≤ (C : ℝ≥0∞) * EMetric.diam t ^ (r : ℝ) :=
   hf.ediam_image_inter_le_of_le le_rfl
 
+/-- If a function is `(C₁, r)`-Hölder and `(C₂, s)`-Hölder, then it is
+`(C₁ ^ t₁ * C_₂ ^ t₂, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Holder.lean]:
```suggestion
`(C₁ ^ t₁ * C₂ ^ t₂, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
```

File: Mathlib/Topology/MetricSpace/Holder.lean [hunk 7]
```diff
@@ -211,6 +292,46 @@ lemma mono {C' : ℝ≥0} (hf : HolderWith C r f) (h : C ≤ C') :
     HolderWith C' r f :=
   fun x₁ x₂ ↦ (hf x₁ x₂).trans (by gcongr)
 
+/-- If a function is `(C₁, r)`-Hölder and `(C₂, s)`-Hölder, then it is
+`(C₁ ^ t₁ * C_₂ ^ t₂, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Holder.lean]:
```suggestion
`(C₁ ^ t₁ * C₂ ^ t₂, r * t₁ + s * t₂)`-Hölder for all `t₁ t₂ : ℝ≥0` such that
```

**Review by ADedecker — APPROVED** [review]
LGTM, thanks! (and sorry for the quite long review for something essentially trivial :sweat_smile:). Since I made some heavy suggestions I don't want to merge this myself, so:

maintainer delegate

File: Mathlib/Topology/MetricSpace/HolderNorm.lean [hunk 8]
```diff
@@ -129,6 +129,71 @@ lemma memHolder_const' {c : Y} : MemHolder r (fun _ ↦ c : X → Y) :=
...
+  letI := PseudoEMetricSpace.toPseudoMetricSpace
+    fun x y ↦ ne_top_of_le_ne_top ENNReal.coe_ne_top (hX x y)
+  have := Metric.boundedSpace_iff_edist.2 ⟨C, hX⟩
+  exact hf.of_le hs
+
+/-- If a function is `r`-Hölder over a bounded set, then it is also `s`-Hölder over this set
+when `s ≤ r`. See `HolderOnWith.exists_holderOnWith_of_le'`
+for the version in a pseudoemetric space. -/
+lemma HolderOnWith.exists_holderOnWith_of_le {X : Type*} [PseudoMetricSpace X]
+    {f : X → Y} {s : ℝ≥0} {t : Set X} (hf : ∃ C, HolderOnWith C r f t) (hs : s ≤ r)
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/HolderNorm.lean]: Could you avoid the letter `t` for the set? Since you already have `s`, it gives the impression that `s` and `t` are of the same nature, which they're not. Same thing below.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by EtienneC30** [comment]
Thanks!
bors merge
